Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11].[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-1.8312426687
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2][C:3],3.3082896066100003
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])([H:4])([H:6])[H:10].[C:5]=[C:7]([H:8])[H:9],1.03625533692
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[C:7]=[C:8]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:9],6.833705994040001
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.221172431499999
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:14],4.48647932244
[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[C:5]#[C:6][H:7].[O:1]=[C:2]([H:3])[C:4][O:8][H:9],6.41417331579
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:7]#[C:8][O:9][H:10].[H:1][C:2][O:3][C:4]([H:5])[H:6],5.150964032219999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11],0.66585625169
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.99532630357
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4][H:5].[O:6][C:7]#[C:8][H:9],2.87684816892
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],7.42571576329
[C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9],-3.39108117977
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.953648972240001
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:11]([H:12])([H:13])[H:14].[H:10],1.82545530358
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.71951522655
[C:7][C:8]([H:9])([H:10])[H:11].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-6.997083454269999
[H:1][C:2]([H:3])([H:4])[C:5][O:14][C:11]([C:6][C:7]([H:8])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]1=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14]1,-5.13037497666
[H:8].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[O:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.15467664538
[H:1][O:2][C@:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-0.3438308505699999
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.2999553929100003
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])[H:8],8.090733172739997
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[O:8][H:9],3.24925140943
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5],2.72503991953
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.04653424367
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],3.03914512085
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],3.10529067545
[H:6].[O:1][C:2]([H:3])([H:4])[C:5]#[C:7][C:8]([H:9])[O:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-3.84473329834
